US06596719B1
According to the procedure described in Example 1g) 1.00 g 5-(o-methoxyphenoxy)-4,6-dichloro-2-methyl-pyrimidine was reacted with 5-methyl-2-pyridine sulfonamide potassium salt to give 1.5 g 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=4.57 min, [M+1]+=421.42, [M−1]−=419.46.

reactant | 5-(o-methoxyphenoxy)-4,6-dichloro-2-methyl-pyrimidine | 1.00 g | COC1=C(OC=2C(=NC(=NC2Cl)C)Cl)C=CC=C1 | C12H10Cl2N2O2
reactant | 5-methyl-2-pyridine sulfonamide potassium salt | [K+].CC=1C=CC(=NC1)S(=O)(=O)[NH-]
product | 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide | 1.5 g | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C18H17ClN4O4S
